US08044213B2
A solution of 5.58 g (86 mmole) of potassium cyanide and 1 mL of water was added in one portion to a solution of 8.0 g (34.3 mmole) of α-bromo-p-chloroacetophenone in 50 mL of 95% ethanol. The mixture was stirred at room temperature for 5 hours, then diluted with water and dichloromethane and acidified with acetic acid. The organic layer was washed with brine. The aqueous layers were extracted with dichloromethane. The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give crude 3-(4-chloro-phenyl)-3-oxo-propionitrile which was used in next step without further purification.

reactant | potassium cyanide | 86 mmole, 5.58 g | [C-]#N.[K+]
reactant | α-bromo-p-chloroacetophenone | 34.3 mmole, 8.0 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 1 mL | O | H2O
product | 3-(4-chloro-phenyl)-3-oxo-propionitrile | ClC1=CC=C(C=C1)C(CC#N)=O | C9H6ClNO
